US07314885B2
4-Amino-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester:
To a solution of 1-methanesulfonyl-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester (2.4 g, 9.15 mmol) in ethanol (30 mL) was added Pd/C (10%) (120 mg) under nitrogen atmosphere. The reaction flask was charged with hydrogen at 50 psi for 2 hours. The catalyst was removed by filtration through celite. The solvent was evaporated under reduced pressure to afford a sticky syrup that was purified by flash column eluting with 50% EtOAc in hexanes to give the product as sticky oil (2.1 g, 99%). MS (ES+): m/e=233.1 (M+H); LC/Method A/2.36 min.

reactant | 1-methanesulfonyl-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester | 9.15 mmol, 2.4 g | C(C)OC(=O)C=1N(C=C(C1)[N+](=O)[O-])S(=O)(=O)C | C8H10N2O6S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 4-Amino-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester | 2.1 g, 99% | C(C)OC(=O)C=1N(C=C(C1)N)S(=O)(=O)C | C8H12N2O4S
